US06503933B1
a) Ethyl 2-(3,5-dichloro-2-pyridyl)glycinate
To a stirred solution of sodium hydride (0.445 g) in dry dimethylformamide (4 ml) at 0° C. was added ethyl N-(diphenylmethylene)glycinate (1.485 g) in dry dimethylformamide (3 ml) and stirring was continued for 20 minutes. 2,3,5-Trichloropyridine (1.58 g) in dry dimethylformamide (4 ml) was then added dropwise over 10 mins at 5° C. and the reaction mixture was stirred for 2 hours at room temperature. 2M hydrochloric acid (25 ml) was added and stirring continued for 2 hours. The solution was washed with diethyl ether and the layers were separated. The aqueous phase was neutralised with saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The combined ethyl acetate layers were washed with brine (×2), dried (MgSO4), filtered and the solvent removed to leave a residue which was purified by silica gel chromatography eluting with ethyl acetate/light petroleum (40-60° C.) to give the title product.

reactant | sodium hydride | 0.445 g | [H-].[Na+]
reactant | ethyl N-(diphenylmethylene)glycinate | 1.485 g | C1(=CC=CC=C1)C(=NCC(=O)OCC)C1=CC=CC=C1 | C17H17NO2
reactant | 2,3,5-Trichloropyridine | 1.58 g | ClC1=NC=C(C=C1Cl)Cl | C5H2Cl3N
reactant | hydrochloric acid | 2M, 25 ml | Cl | ClH
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(3,5-dichloro-2-pyridyl)glycinate | ClC=1C(=NC=C(C1)Cl)C(N)C(=O)OCC | C9H10Cl2N2O2
